US08133901B2
2-methyl-5-o-tolyl-thiazole-4-carboxylic acid methyl ester
prepared by reaction of 3-chloro-2-oxo-3-o-tolyl-propionic acid methyl ester with thioacetamide. LC-MS: tR=0.92 min; [M+H]+=248.1.

reactant | 3-chloro-2-oxo-3-o-tolyl-propionic acid methyl ester | COC(C(C(C1=C(C=CC=C1)C)Cl)=O)=O | C11H11ClO3
reactant | thioacetamide | C(C)(=S)N | C2H5NS
product | 2-methyl-5-o-tolyl-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1C1=C(C=CC=C1)C)C | C13H13NO2S
